US08119666B2
To a solution of α,α′-dichloro-o-xylene (3.5 g, 18 mmol) in DMF (20 mL) is added sodium methanesulfinate (0.612 g, 6.0 mmol) and the mixture is stirred at 65° C. for 4 h. Ice/water and EtOAc are added, the phases are separated and the organic phase is washed with water and brine, dried over Na2SO4/MgSO4, filtered and concentrated. The resulting residue is chromatographed on silica gel, eluting with a gradient of hexane/EtOAc to afford 1-chloromethyl-2-methanesulfonylmethylbenzene as a white solid: MS (M+NH4)+=236.

reactant | α,α′-dichloro-o-xylene | 18 mmol, 3.5 g | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
reactant | sodium methanesulfinate | 6.0 mmol, 0.612 g | CS(=O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-chloromethyl-2-methanesulfonylmethylbenzene | ClCC1=C(C=CC=C1)CS(=O)(=O)C | C9H11ClO2S
